US07871998B2
N-{[4-((2R,3R)-1-(4-Fluorophenyl)-3-{[2-(4-fluorophenyl)-2-hydroxyethyl]thio}-4-oxoazetidin-2-yl)phenoxy]acetyl}glycyl-N,2-dimethylalanine
To mixture of N-{[4-((2R,3R)-1-(4-fluorophenyl)-3-{[2-(4-fluorophenyl)-2-oxoethyl]thio}-4-oxoazetidin-2-yl)phenoxy]acetyl}glycine (0.020 g, 0.037 mmol) and NMM (0.012 ml, 0.109 mmol) in DMF (3 ml) at 30° C. was added TBTU (0.018 g, 0.056 mmol). The reaction mixture was stirred for 20 min after which 2-(methylamino)isobutyric acid (0.005 g, 0.038 mmol) was added. The mixture was stirred at 30° C. for 20 h before the reaction was quenched by the addition of water (1 ml). The mixture was diluted with MeOH (2 ml) and NaBH4(0.018 g, 0.486 mmol) was added. After 10 min the reaction was quenched by the addition of a 0.1M ammonium acetate buffer (2 ml) and most of the methanol was removed under reduced pressure. The remaining solution was purified by preparative HPLC using a gradient of 20-50% MeCN in a 0.1M ammonium acetate buffer as eluent. Freeze-drying of the pure fractions gave the desired product as a white solid (0.012 g, 50% yield).

reactant | N-{[4-((2R,3R)-1-(4-fluorophenyl)-3-{[2-(4-fluorophenyl)-2-oxoethyl]thio}-4-oxoazetidin-2-yl)phenoxy]acetyl}glycine | 0.037 mmol, 0.020 g | FC1=CC=C(C=C1)N1[C@@H]([C@H](C1=O)SCC(=O)C1=CC=C(C=C1)F)C1=CC=C(OCC(=O)NCC(=O)O)C=C1 | C27H22F2N2O6S
reactant | NMM | 0.109 mmol, 0.012 ml | CN1CCOCC1 | C5H11NO
reactant | TBTU | 0.056 mmol, 0.018 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
reactant | 2-(methylamino)isobutyric acid | 0.038 mmol, 0.005 g | CNC(C(=O)O)(C)C | C5H11NO2
reactant | NaBH4 | 0.486 mmol, 0.018 g | [BH4-].[Na+]
reactant | MeOH | 2 ml | CO | CH4O
solvent | DMF | 3 ml | CN(C)C=O | C3H7NO
product | N-{[4-((2R,3R)-1-(4-Fluorophenyl)-3-{[2-(4-fluorophenyl)-2-hydroxyethyl]thio}-4-oxoazetidin-2-yl)phenoxy]acetyl}glycyl-N,2-dimethylalanine | 0.012 g, 50% yield | FC1=CC=C(C=C1)N1[C@@H]([C@H](C1=O)SCC(O)C1=CC=C(C=C1)F)C1=CC=C(OCC(=O)NCC(=O)N(C(C)(C(=O)O)C)C)C=C1 | C32H33F2N3O7S
